US07932246B2
N-(1-Isobutoxyethoxy) 2-{6-[(3-diethylaminopropionyl)naphthalen-2-ylmethyl-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide
3-N,N-Diethylaminopropionic acid (73 mg, 0.5 mmol) was suspended in oxalyl chloride (1 ml, 11.2 mmol) and DMF (1 drop) was added. The resultant mixture was stirred at r.t. overnight. The reaction mixture was then evaporated under reduced pressure and azeotroped with DCM. The residue was dissolved in DCM (1 ml) and added to an ice-cooled solution of N-(1-isobutoxyethoxy) 2-{6-[(naphthalen-2-ylmethyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}-pyrimidine-5-carboxamide (100 mg, 0.21 mmol) in DCM (3 ml) and triethylamine (0.3 ml, 2.15 mmol). After stirring at 0° C. for 20 min, the resulting mixture was stirred at r.t. overnight. The reaction mixture was partitioned between DCM (5 ml) and water (5 ml). The aqueous layer was extracted twice more with DCM (2×5 ml) and the combined organics washed with brine (2×5 ml), dried (MgSO4) and evaporated to dryness. The title compound was obtained as a white solid (199 mg, quant.). m/z 603 [M+H]+.

reactant | oxalyl chloride | 11.2 mmol, 1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(1-isobutoxyethoxy) 2-{6-[(naphthalen-2-ylmethyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}-pyrimidine-5-carboxamide | 0.21 mmol, 100 mg | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)NCC1=CC2=CC=CC=C2C=C1 | C27H33N5O3
reactant | triethylamine | 2.15 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-(1-Isobutoxyethoxy) 2-{6-[(3-diethylaminopropionyl)naphthalen-2-ylmethyl-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CC1=CC2=CC=CC=C2C=C1)C(CCN(CC)CC)=O | C34H46N6O4
